US08471005B2
2-[4-(4-{7-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-phenyl)-piperidin-1-yl]-acetamide was prepared from 7-[3-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 2-[4-(4-Amino-phenyl)-piperidin-1-yl]-acetamide in an analogous manner to Example 1052a. Product isolated as an orange solid (104 mg, 54%). m.p.=170-173° C.; LCMS (m/e) 571 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.70 (s, 1H), 8.07 (s, 1H), 8.03 (d, 1H, J=7.8 Hz), 7.61 (d, 2H, J=8.3 Hz), 7.52-7.44 (m, 1H), 7.40 (d, 1H, J=7.5 Hz), 7.19 (d, 2H, J=8.3 Hz), 7.19-7.08 (m, 1H), 7.00 (d, 1H, J=4.7 Hz), 6.87-6.80 (m, 2H), 5.45 (bs, 1H), 4.88 (s, 2H), 3.05 (s, 2H), 3.06-2.97 (m, 2H), 2.58-2.43 (m, 1H), 2.38-2.25 (m, 2H), 1.94-1.85 (m, 2H), 1.85-1.70 (m, 2H), 0.97 (s, 9H), 0.13 (s, 6H).

reactant | 7-[3-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O)(C)C | C19H25N3O2Si
reactant | 2-[4-(4-Amino-phenyl)-piperidin-1-yl]-acetamide | NC1=CC=C(C=C1)C1CCN(CC1)CC(=O)N | C13H19N3O
product | 2-[4-(4-{7-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-phenyl)-piperidin-1-yl]-acetamide | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N)(C)C | C32H42N6O2Si
